US07759337B2
Step B: N-Cyclopropyl-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxamide
4-Bromo-N-cyclopropyl-5-methylthiophene-2-carboxamide (235 mg, 903 μmol), bis(pinacolato)diboron (252 mg, 994 μmol), potassium acetate (266 mg, 2710 μmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (66.1 mg, 90.3 μmol) were dissolved in EtOH/DME (1:4) (4.52 mL) and heated to 90° C. for 1 h. The mixture was cooled to RT, diluted with 50 mL ethyl acetate, partitioned with brine (saturated, aqueous), and the organics were washed 3×20 mL with brine (saturated, aqueous), separated, dried over sodium sulfate, concentrated in vacuo, and purified by flash chromatography to give the title compound. MS (ES+): 308(M+H)+Step C: A mixture of 6-chloro-1-morpholinophthalazine (200 mg, 801 μmol), N-cyclopropyl-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxamide (205 mg, 667 μmol), and tetrakis(triphenylphosphine)palladium (116 mg, 100 μmol) was charged ethanol (6.67 mL) and potassium carbonate -2 M in water (1335 μl, 2669 μmol), The reaction mixture was heated to 80° C. for 3 h, then diluted with 50 mL ethyl acetate, partitioned with sodium bicarbonate (saturated, aqueous), and the organics were washed 3×20 mL with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, concentrated in vacuo, and purified by HPLC to give the title compound. MS (ES+): 395 (M+H)+.

reactant | 4-Bromo-N-cyclopropyl-5-methylthiophene-2-carboxamide | 903 μmol, 235 mg | BrC=1C=C(SC1C)C(=O)NC1CC1 | C9H10BrNOS
reactant | bis(pinacolato)diboron | 994 μmol, 252 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2710 μmol, 266 mg | C(C)(=O)[O-].[K+]
solvent | EtOH DME | 4.52 mL | CCO.COCCOC
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 90.3 μmol, 66.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-Cyclopropyl-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxamide | C1(CC1)NC(=O)C=1SC(=C(C1)B1OC(C(O1)(C)C)(C)C)C | C15H22BNO3S
